US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[[1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one
A mixture of 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one (0.3 g) and sodium hydride (80% dispersion in oil; 0.05 g) in dry DMF (5 ml) was stirred under nitrogen at 50° until hydrogen evolution ceased (ca. 0.5 h). The mixture was cooled to 40° and a solution of 4-(chloromethyl)-1-(triphenylmethyl)-1H-imidazole (0.53 g) in dry THF (3 ml) was added. The mixture was stirred at 40° to 23° over 2 h, poured into water (100 ml) and extracted with dichloromethane (3×100 ml). The dried organic phase was evaporated to give a semi-solid which was purified by FCC eluting with dichloromethane:ethyl acetate:triethylamine (50:50:1) to give a solid. This was slurried in hexane and filtered to give the title compound (0.37 g), m.p. 205°-210° (decomp.).

reactant | 2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 0.3 g | CN1C2=C(C=3C=CC=CC13)C(NCC2)=O | C12H12N2O
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 4-(chloromethyl)-1-(triphenylmethyl)-1H-imidazole | 0.53 g | ClCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | 2,3,4,5-Tetrahydro-5-methyl-2-[[1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one | 0.37 g | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C35H30N4O
